US05719152
(S)-9-Chloro-5-(p-tert-butoxycarbonylaminomethyl-o-carboxyphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A solution of (S)-9-chloro-5-[p-tert-butoxycarbonylaminomethyl-o-(methoxycarbonyl)phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (445 mg) in a mixture of 1N sodium hydroxide (5 mL), THF (5 mL), and methanol (5 mL) was stirred for 3.5 h at room temperature and the solvent was concentrated to ca. 5 mL. To the residue was added 5% potassium hydrogen sulfate and the precipitates formed were collected by filtration, washed with water, and dried to give 453 mg of the title compound.

reactant | (S)-9-chloro-5-[p-tert-butoxycarbonylaminomethyl-o-(methoxycarbonyl)phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 445 mg | ClC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(NC2=C(C=C(C=C2)CNC(=O)OC(C)(C)C)C(=O)OC)=O | C27H29ClN4O7
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | methanol | 5 mL | CO | CH4O
solvent | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
product | (S)-9-Chloro-5-(p-tert-butoxycarbonylaminomethyl-o-carboxyphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 453 mg | ClC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(NC2=C(C=C(C=C2)CNC(=O)OC(C)(C)C)C(=O)O)=O | C26H27ClN4O7
